US04303655
A solution of 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, (8.56 g.) in formic acid (180 ml.) was stirred for 5.5 hours at room temperature. After the reaction, the reaction mixture was post-treated in the similar manners as in Examples 16 to 17 to give 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-amino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-imino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, (2.6 g.), mp. 156° to 160° C. (dec.).

reactant | 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | CC1=NN=C(S1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)NC(=O)OC(C)(C)CC)=O)=O | C22H24N6O7S4
reactant | 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | CC1=NN=C(S1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2NC(SC2)=NC(=O)OC(C)(C)CC)=O)=O | C22H24N6O7S4
solvent | formic acid | 180 ml | C(=O)O | CH2O2
product | 3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-amino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | CC1=NN=C(S1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)N)=O)=O | C16H14N6O5S4
